US09034900B2
Step 1: 2-[2-(2,4-difluorophenoxy)-5-(ethylsulfonylmethyl)phenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane
A mixture of 2-bromo-1-(2,4-difluorophenoxy)-4-(ethylsulfonylmethyl)benzene (250 mg, 0.64 mmol), bis(pinacolato)diboron (255 mg, 0.96 mmol), KOAc (189 mg, 1.92 mmol) and Pd(dppf)Cl2 (44 mg, 0.06 mmol) in dioxane (5 mL) was stirred at 70° C. for 18 hrs under N2. The mixture was concentrated and the residue was purified by column chromatography to give the title compound (150 mg, 53.4%) as yellow solid. LCMS: 439.2 (M+1)+

reactant | 2-bromo-1-(2,4-difluorophenoxy)-4-(ethylsulfonylmethyl)benzene | 0.64 mmol, 250 mg | BrC1=C(C=CC(=C1)CS(=O)(=O)CC)OC1=C(C=C(C=C1)F)F | C15H13BrF2O3S
reactant | bis(pinacolato)diboron | 0.96 mmol, 255 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 1.92 mmol, 189 mg | CC(=O)[O-].[K+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.06 mmol, 44 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-[2-(2,4-difluorophenoxy)-5-(ethylsulfonylmethyl)phenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 150 mg, 53.4% | FC1=C(OC2=C(C=C(C=C2)CS(=O)(=O)CC)B2OC(C(O2)(C)C)(C)C)C=CC(=C1)F | C21H25BF2O5S
